US08563546B2
Synthesis of 10-nitro-1-((tetrahydrofuran-3-yl)methyl)-1,2,3,5,6,7,8,9-octahydro-5,9-epoxyimidazo[1,2-a]azocine
To a 50 ml round bottom flask was added 1.065 g (0.005 mol) 2-(nitromethylene)-1-((tetrahydrofuran-3-yl)methyl)imidazolidine, 30 ml acetonitrile, 3 ml 25% glutaraldehyde aqueous solution and catalytic concentrated HCl. The reaction was stirred at r.t. and monitored by TLC. After completion, the mixture was evaporated to remove solvent and purified by column chromatography to afford final product as yellow powder with 36% yield.

reactant | 2-(nitromethylene)-1-((tetrahydrofuran-3-yl)methyl)imidazolidine | 0.005 mol, 1.065 g | [N+](=O)([O-])C=C1N(CCN1)CC1COCC1 | C9H15N3O3
reactant | glutaraldehyde | 3 ml | C(CCCC=O)=O | C5H8O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 10-nitro-1-((tetrahydrofuran-3-yl)methyl)-1,2,3,5,6,7,8,9-octahydro-5,9-epoxyimidazo[1,2-a]azocine | 36% yield | [N+](=O)([O-])C1=C2N(C3CCCC1O3)CCN2CC2COCC2 | C14H21N3O4
